US05268484
8.9 g (0.10 mole) of ethyl carbamate was dissolved in 18.6 g (0.10 mole) of 2-ethylhexyl glycidyl ether. After adding 0.41 g of N, N-dimethylbenzylamine and 0 63 g of di-n-butyltin dilaurate, the solution was heated at 160° C. for 1 hour while blowing nitrogen gas into the reaction mixture. The product was distilled under reduced pressure to give 20.0 g (88% of theory) of 5-(2-ethylhexyl) oxymethyl-2-oxazolidinone.

reactant | ethyl carbamate | 0.10 mole, 8.9 g | C(N)(OCC)=O | C3H7NO2
reactant | 2-ethylhexyl glycidyl ether | 0.10 mole, 18.6 g | C(C1CO1)OCC(CCCC)CC | C11H22O2
reactant | di-n-butyltin dilaurate | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
catalyst | N, N-dimethylbenzylamine | 0.41 g | CN(C)CC1=CC=CC=C1 | C9H13N
product | 5-(2-ethylhexyl) oxymethyl-2-oxazolidinone | 20.0 g, 88% | C(C)C(COCC1CNC(O1)=O)CCCC | C12H23NO3
